US07919519B2
In a sealed flask, a mixture of 5-benzylbenzofuran-2-ylboronic acid (525 mg, 2.1 mmol) and potassium acetate (0.41 g, 4.2 mmol) was set under argon, treated with bis{di(tbutyl)phenyl}palladium(II) dichloride (0.078 g, 0.12 mmol), followed by a solution of 6-chloro-2-methylnicotinaldehyde (0.29 g, 1.9 mmol) in EtOH (10 mL). The resulting suspension was degassed again and heated to 80° C. for 2 h. The mixture was cooled to 24° C., treated with EtOAc and washed with saturated aqueous NaHCO3 and brine (each 1×). The combined organic layers were dried over MgSO4 and evaporated. Purification by flash chromatography (hexanes to hexanes/EtOAc=9:1) gave 6-(5-Benzylbenzofuran-2-yl)-2-methylnicotinaldehyde as a pale yellow solid. 1H NMR (400 MHz, CDCl3) δ ppm 10.33 (s, 1H), 8.27 (d, J=8.0 Hz, 1H), 7.97-7.95 (m, 2H), 7.51-7.49 (m, 2H), 7.31-7.29 (m, 2H), 7.24-7.21 (m, 3H), 4.10 (s, 2H), 3.07 (s, 3H). MS (ESI) m/z: Calculated: 327.4; Observed: 328.1 (M++1).

reactant | 5-benzylbenzofuran-2-ylboronic acid | 2.1 mmol, 525 mg | C(C1=CC=CC=C1)C=1C=CC2=C(C=C(O2)B(O)O)C1 | C15H13BO3
reactant | potassium acetate | 4.2 mmol, 0.41 g | C(C)(=O)[O-].[K+]
reactant | 6-chloro-2-methylnicotinaldehyde | 1.9 mmol, 0.29 g | ClC1=NC(=C(C=O)C=C1)C | C7H6ClNO
solvent | EtOH | 10 mL | CCO | C2H6O
product | 6-(5-Benzylbenzofuran-2-yl)-2-methylnicotinaldehyde | C(C1=CC=CC=C1)C=1C=CC2=C(C=C(O2)C2=NC(=C(C=O)C=C2)C)C1 | C22H17NO2
